US07105567B2
By the reaction and treatment in the same manner as in Example 2 using benzyl(4-octylphenyl)amine and 2,6-diisopropylphenyl isocyanate as starting materials, N-benzyl-N′-(2,6-diisopropylphenyl)-N-(4-octylphenyl)urea is obtained.

reactant | benzyl(4-octylphenyl)amine | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CCCCCCCC | C21H29N
reactant | 2,6-diisopropylphenyl isocyanate | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-benzyl-N′-(2,6-diisopropylphenyl)-N-(4-octylphenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=C(C=C1)CCCCCCCC | C34H46N2O
